US05220018
2-[(2-Bromoacetyl)amino]-2-fluorobenzophenone
To a cooled (-10° C.), stirred suspension of 2-amino-2-fluorobenzophenone (19.40 g, 0.090 mol) in dichloromethane (130 mL) and water (10 mL) was added a solution of bromoacetylbromide (9.0 mL, 0.104 mol) in dichloromethane (30 mL), keeping the temperature of the reaction mixture at -10° C. After addition the reaction mixture was stirred whilst warming to room temperature (21/2hours). The organic layer was collected, washed with water (2×100 mL) then concentrated to approximately 70 mL. Hexane (70 mL) was added and the required product collected by filtration (25.6 g, 83%): mp 120°-121° C. Rf 0.30 in diethyl ether/n-hexane (1:1) on silica; 1H NMR (CDCl3) δ4.05 (2H,s), 7.10-7.64 (7H, m), 8.70 (1H, d, J=8 Hz), 11.95 (1H, broad s); MS, m/z 335 (M+ ). Anal. Calcd. for C15H11BrFNO2 :C, 53.59; H, 3.30; N, 4.17. Found: C, 53.32; H, 3.33; N, 4.00.

reactant | 2-amino-2-fluorobenzophenone | 0.090 mol, 19.40 g | NC1(C(C(=O)C2=CC=CC=C2)C=CC=C1)F | C13H12FNO
reactant | bromoacetylbromide | 0.104 mol, 9.0 mL | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-[(2-Bromoacetyl)amino]-2-fluorobenzophenone | BrCC(=O)NC1(C(C(=O)C2=CC=CC=C2)C=CC=C1)F | C15H13BrFNO2
